US06040306
5-Amino-2-(4-[2-fluoroethyl]-3-oxopiperazin-1-yl)fluorobenzene (2.6 g) is dissolved in dry dichloromethane (50 ml) under argon. Pyridine (1.03 ml) is added, and the mixture cooled to -20°. Benzyl chloroformate (1.6 ml) is added and the mixture stirred for 10 minutes at -20°, before allowing the temperature to rise to 20-25° over 1.5 hours. The solvents are removed and the residue is dissolved in dichloromethane and washed with sodium bicarbonate solution. After drying over magnesium sulfate and removal of the solvent, the residue is chromatographed (silica, eluting with a gradient increasing in polarity from 0 to 5% methanol in dichloromethane) to give 5-benzyloxycarbonylamino-2-(4-[2-fluoroethyl]-3-oxopiperazin-1-yl)fluorobenzene.

reactant | 5-Amino-2-(4-[2-fluoroethyl]-3-oxopiperazin-1-yl)fluorobenzene | 2.6 g | NC=1C=CC(=C(C1)F)N1CC(N(CC1)CCF)=O | C12H15F2N3O
reactant | Pyridine | 1.03 ml | N1=CC=CC=C1 | C5H5N
reactant | Benzyl chloroformate | 1.6 ml | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 5-benzyloxycarbonylamino-2-(4-[2-fluoroethyl]-3-oxopiperazin-1-yl)fluorobenzene | C(C1=CC=CC=C1)OC(=O)NC=1C=CC(=C(C1)F)N1CC(N(CC1)CCF)=O | C20H21F2N3O3
